US06313312B1
3-Hexyl-6-methyl-6-[3-(1-triphenylmethyl-1H-imidazol-5-yl)phenyl]-3-azabicyclo[3.1.0]hexan-2-one
To tris(dibenzylideneacetone)dipalladiunm (0) (8.7 mg, 9.5 mmol) in tetrahydrofuran (2.5 ml) at room temperature was added triphenylarsine (12 mg, 39.2 [mol). After 10 min, a solution of 3-hexyl-6-(3-iodophenyl)-6-methyl-3-azabicyclo[3.1.0]hexan-2-one (Preparation 67, 0.15 g, 3.8 mmol) in tetrahydrofuran (2.5 ml) was added. A minute later, 4-(tributylstannyl)-1-triphenylmethyl-1H-imidazole (Preparation 73, 0.332 g, 0.55 mmol) in tetrahydrofuran (3 ml) was added. The reaction mixture was stirred at room temperature for 30 min and then refluxed for 3.5 h. The cooled reaction mixture was concentrated in vacuo and chromatographed on silica gel eluting with hexane:ethyl acetate (1:1 then 0:1) to give the title compound (55 mg, 25%).

reactant | triphenylarsine | C1(=CC=CC=C1)[As](C1=CC=CC=C1)C1=CC=CC=C1 | C18H15As
reactant | 3-hexyl-6-(3-iodophenyl)-6-methyl-3-azabicyclo[3.1.0]hexan-2-one | 3.8 mmol, 0.15 g | C(CCCCC)N1C(C2C(C2C1)(C)C1=CC(=CC=C1)I)=O | C18H24INO
reactant | 4-(tributylstannyl)-1-triphenylmethyl-1H-imidazole | 0.55 mmol, 0.332 g | C(CCC)[Sn](C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)(CCCC)CCCC
solvent | tetrahydrofuran | 2.5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2.5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
catalyst | tris(dibenzylideneacetone)dipalladium | 9.5 mmol, 8.7 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 3-Hexyl-6-methyl-6-[3-(1-triphenylmethyl-1H-imidazol-5-yl)phenyl]-3-azabicyclo[3.1.0]hexan-2-one | 55 mg, 25% | C(CCCCC)N1C(C2C(C2C1)(C1=CC(=CC=C1)C1=CN=CN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C)=O | C40H41N3O
